US07612114B2
(2-Bromo-4-methoxyphenyl)[3-fluoro-4-(2-piperidin-1-ylethoxy)phenyl]methanone
Synthesized from 3-bromoanisole (1.1 ml) and 3-fluoro-4-(2-piperidin-1-ylethoxy)benzoic acid hydrochloride (3.3 g) according to an analogous synthetic method to Preparation Example 66, the title compound (1.6 g) was obtained.

reactant | 3-bromoanisole | 1.1 ml | BrC=1C=C(C=CC1)OC | C7H7BrO
reactant | 3-fluoro-4-(2-piperidin-1-ylethoxy)benzoic acid hydrochloride | 3.3 g | Cl.FC=1C=C(C(=O)O)C=CC1OCCN1CCCCC1
product | (2-Bromo-4-methoxyphenyl)[3-fluoro-4-(2-piperidin-1-ylethoxy)phenyl]methanone | 1.6 g | BrC1=C(C=CC(=C1)OC)C(=O)C1=CC(=C(C=C1)OCCN1CCCCC1)F | C21H23BrFNO3
